US06022894
The 1-(4-methylphenyl)-2-methyl-2-nitropropane (1.3 g) was hydrogenated for 5 hours at 65 p.s.i. hydrogen in ethanol (30 mL) using 1.4 g of Raney nickel as catalyst. Removal of the catalyst by filtration and evaporation of the solvent yielded 1.15 g of 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine as a clear oil.

reactant | 1-(4-methylphenyl)-2-methyl-2-nitropropane | 1.3 g | CC1=CC=C(C=C1)CC(C)([N+](=O)[O-])C | C11H15NO2
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Raney nickel | 1.4 g | [Ni] | Ni
product | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 1.15 g | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
